Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ w/ no significant PMH who presents with 3 
days diarrhea. She has not had F/C/N/V/NS. She had increasing 
abdominal pain overnight and bloody diarrhea this morning. She 
was sent in by ___ for evaluation.

In the ED she was afebrile, 98.9, 59, 115/70, 15, 100% RA. She 
was given IV Cipro and Flagyl. CT abd showed pancolitis with 
rectal sparing. She was admitted to medicine for further 
management.

ROS:
-Constitutional: []WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightsweats []Anorexia
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia
-ENT: []WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat
-Cardiac: []WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE
-Respiratory: []WNL []SOB []Pleuritic pain []Hemoptysis []Cough
-Gastrointestinal: []WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy
-GU: []WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia
-Skin: []WNL []Rash []Pruritus
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance
-Musculoskeletal: []WNL []Myalgias []Arthralgias []Back pain
-Neurological: []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache
-Psychiatric: []WNL []Depression []Suicidal Ideation
-Allergy/Immunological: [] WNL []Seasonal Allergies

 
Past Medical History:
None
 
Social History:
___
Family History:
Grandfather with colon CA. No h/o IBD.
 
Physical Exam:
Physical Exam:
Appearance: NAD
Vitals: T: 99.4 BP: 114/79 HR: 58 RR: 18 O2: 99% RA
Eyes: EOMI, PERRL, conjunctiva clear, noninjected, anicteric, no 
exudate
ENT: Moist
Neck: No JVD, no LAD
Cardiovascular: RRR, nl S1/S2, no m/r/g
Respiratory: CTA bilaterally, comfortable, no wheezing, no 
ronchi, no rales
Gastrointestinal: soft, tender in umbilical and hypogastric 
region, non-distended, no hepatosplenomegaly, normal bowel 
sounds
Musculoskeletal/Extremities: no clubbing, no cyanosis, no joint 
swelling, no edema in the bilateral extremities
Neurological: Alert and oriented x3, fluent speech, sensation 
WNL, moves all four extremities
Integument: warm, no rash, no ulcer
Psychiatric: appropriate, pleasant

 
Pertinent Results:
___ 11:00AM   GLUCOSE-90 UREA N-10 CREAT-0.9 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-27 ANION GAP-15
___ 11:00AM   ALT(SGPT)-26 AST(SGOT)-29 ALK PHOS-107 TOT 
BILI-0.4
___ 11:00AM   LIPASE-30
___ 11:00AM   WBC-6.3 RBC-4.18* HGB-12.6 HCT-35.7* MCV-85 
MCH-30.1 MCHC-35.2* RDW-13.2
___ 11:00AM   PLT COUNT-217
___ 12:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-SM
___ 12:50PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___

CT abd/pelvis: Pancolitis, worst along the cecum. Findings may 
be secondary to infectious or inflammatory process. 

 
Brief Hospital Course:
A/P: ___ w/ no significant PMH presents with 3 days diarrhea, 1 
day worsening abdominal pain.

## diarrhea/abdominal pain: colitis identified on CT, most 
likely infectious, especially given occupational risk factor, 
but cannot rule out inflammatory bowel disease. Stool was sent 
for culture including C. diff. Her diarrhea improved with 
empiric Cipro/Flagyl, and she tolerated clears. Her pain 
improved with Tylenol and oxycodone x1. As she was tolerating 
clears and PO meds and her diarrhea was improving, she was 
discharged home with strong recommendations to followup in 
Healthcare Associates within the week. She will be contacted if 
the stool cultures return positive and indicate a change in 
therapy. her her symptoms do not improve with a 7-day course of 
Abx, a flex sig in GI clinic would be considered to evaluate for 
evidence of IBD.

 
Medications on Admission:
multivitamin
 
Discharge Medications:
1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 6 days.
Disp:*12 Tablet(s)* Refills:*0*
2. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 6 days.
Disp:*18 Tablet(s)* Refills:*0*
3. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: colitis of presumed infectious origin

 
Discharge Condition:
good, stable, tolerating liquids

 
Discharge Instructions:
You were evaluated for diarrhea and abdominal cramping and were 
found to have inflammation of the colon (colitis) on CT scan. 
This is most likely due to an infection, although inflammatory 
bowel disease is also possible. As your diarrhea improved and 
you were able to keep down fluids, you should be safe for 
discharge home. Some stool culture results were pending at the 
time of discharge, and you should follow up early next week at 
Healthcare Associates for results and consideration of further 
testing depending on your symptoms.

Take antibiotics (Flagyl and Cipro) as directed.

If you have worsening abdominal pain, lightheadedness, 
significant blood in your stool, inability to keep down food or 
liquid, fevers or chills, see ___ Health Services or come 
to the emergency room.
 
Followup Instructions:
___